US08937083B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-methyl-2-(methylthio)acetamide (Compound 337)
To an ice cold solution of 2-(methylthio)acetic acid (0.092 g, 0.863 mmol) in DCM (2 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.111 g, 0.863 mmol) followed by isobutyl chloroformate (0.099 ml, 0.767 mmol). Stirring was continued for 10 minutes. Next, the mixed anhydride was added to a solution of 3-chloro-N-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine (0.08 g, 0.383 mmol) in DCM (0.66 mL) and the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was concentrated and purified using reverse phase C-18 column chromatography (0-100% CH3CN/H2O) to yield the title compound as a pale yellow oil (0.075 g, 66%): 1H NMR (400 MHz, CDCl3) δ 8.95 (d, J=2.5 Hz, 1H), 8.62 (dd, J=4.8, 1.4 Hz, 1H), 8.13 (s, 1H), 8.04 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 7.50-7.43 (m, 1H), 3.26 (s, 3H), 3.12 (s, 2H), 2.24 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 170.00, 148.61, 140.15, 140.03, 135.68, 126.56, 126.42, 125.33, 124.15, 37.16, 34.94, 16.22; ESIMS m/z 297 ([M+H]+).

reactant | 2-(methylthio)acetic acid | 0.863 mmol, 0.092 g | CSCC(=O)O | C3H6O2S
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.863 mmol, 0.111 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isobutyl chloroformate | 0.767 mmol, 0.099 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-chloro-N-methyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 0.383 mmol, 0.08 g | ClC1=NN(C=C1NC)C=1C=NC=CC1 | C9H9ClN4
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.66 mL | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-methyl-2-(methylthio)acetamide | 0.075 g, 66% | ClC1=NN(C=C1N(C(CSC)=O)C)C=1C=NC=CC1 | C12H13ClN4OS
